US07144908B2
vi) 3-[3-(4-{[6-([(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)hexyl]oxy}butyl)phenyl]imidazolidine-2,4-dione
A solution of 3-(3-{4-[(6-{benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione (9.05 g) in a mixture of isopropanol-EtOAc (9:1, 200 ml) was hydrogenated over Pearlman's catalyst (1.8 g). After 2 days aqueous 2M HCl (10 ml) was added and the mixture was hydrogenated for a further 2 h. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on Biotage eluting with dichloromethane-isopropanol-880 ammonia (34:7:1) to give the title compound (2.8 g) LCMS RT=2.34 min ES+ve 514 (MH)+.

reactant | 3-(3-{4-[(6-{benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione | 9.05 g | C(C1=CC=CC=C1)N(CCCCCCOCCC#CC=1C=C(C=CC1)N1C(NCC1=O)=O)C[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C38H45N3O6
reactant | HCl | 2M, 10 ml | Cl | ClH
solvent | isopropanol EtOAc | 200 ml | C(C)(C)O.CCOC(=O)C
catalyst | Pearlman's catalyst | 1.8 g | [OH-].[OH-].[Pd+2]
product | 3-[3-(4-{[6-([(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)hexyl]oxy}butyl)phenyl]imidazolidine-2,4-dione | 2.8 g | O[C@@H](CNCCCCCCOCCCCC=1C=C(C=CC1)N1C(NCC1=O)=O)C1=CC(=C(C=C1)O)CO | C28H39N3O6
